US08791102B2
Proceeding as in Reference 5, but substituting 3-chloro-4-phenoxyaniline and (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid, gave (S)-2-amino-3-(benzyloxy)-N-(3-chloro-4-phenoxyphenyl)propanamide (470 mg, 70%).

reactant | 3-chloro-4-phenoxyaniline | ClC=1C=C(N)C=CC1OC1=CC=CC=C1 | C12H10ClNO
reactant | (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
product | (S)-2-amino-3-(benzyloxy)-N-(3-chloro-4-phenoxyphenyl)propanamide | 470 mg, 70% | N[C@H](C(=O)NC1=CC(=C(C=C1)OC1=CC=CC=C1)Cl)COCC1=CC=CC=C1 | C22H21ClN2O3
